US09034891B2
Synthesis of 3-(4-fluorobenzenesulfonyl)-2,8-dimethyl-1-oxa-3,8-diazaspiro[4.5]-decane (AF715)
2,8-Dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane (1.42 g, 8.38 mmol) was dissolved in dry dichloromethane (5 ml) under argon atmosphere. Distilled triethylamine (1.75 ml, 12.57 mmol) was added and the resulted solution was cooled to 0° C. p-Fluorobenzenesulfonyl chloride (1.63 gr, 8.37 mmol) was added and the reaction flask was allowed to warm to room temperature with stirring, and a white solid started to precipitate. After 30 min of stirring, dichloromethane (90 ml) was added and the resulting solution was washed with water (2×10 ml). The organic phase was dried with anhydrous sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography (silica, CH2Cl2/EtOH/NH4OH 140/10/1) to give AF715 (1.23 g, 98.7% chemical purity) as an off-white powder. 1H NMR (CDCl3, 500 MHz) δ 7.89-7.87 (m, 2H, CHCSO2), 7.27-7.22 (m, 2H, CHCF), 5.05 (q, J=5.23, 1H, CHCH3), 3.33 (d, J=10.26 Hz, 1H, CHHNS), 3.19 (d, J=10.26 Hz, 1H, CHHNS), 2.52-2.42 (m, 1H), 2.34-2.25 (m, 2H), 2.23 (s, 3H, NCH3), 2.18-2.09 (m, 1H), 1.77-1.72 (m, 2H), 1.52 (d, J=5.23 Hz, 3H, CH3CH), 1.25-1.18 (m, 1H), 1.10-1.03 (m, 1H) ppm; 13C NMR (CDCl3, 500 MHz) δ 166.45 and 164.42 (C), 134.0 (C), 130.37 (CH), 130.29 (CH), 116.68 (CH), 116.50 (CH), 86.95 (CH), 66.30 (C), 55.48 (CH2), 52.57 (CH2), 52.11 (CH2), 46.04 (CH3), 35.64 (CH2), 32.84 (CH2), 22.95 (CH3) ppm.

reactant | 2,8-Dimethyl-1-oxa-3,8-diaza-spiro[4.5]decane | 8.38 mmol, 1.42 g | CC1OC2(CN1)CCN(CC2)C | C9H18N2O
reactant | triethylamine | 12.57 mmol, 1.75 ml | C(C)N(CC)CC | C6H15N
reactant | p-Fluorobenzenesulfonyl chloride | 8.37 mmol, 1.63 gr | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(4-fluorobenzenesulfonyl)-2,8-dimethyl-1-oxa-3,8-diazaspiro[4.5]-decane | FC1=CC=C(C=C1)S(=O)(=O)N1C(OC2(C1)CCN(CC2)C)C | C15H21FN2O3S
